US04913837
16.4 g of 4-propyl benzoic acid are boiled for hour with 24 g of SOCl2, which is followed by evaporating, dissolving the acid chloride obtained in 150 ml of toluene, adding 8 ml of pyridine and 24.2 g of 5-(4-pentylphenyl)-2-pyrazinol (obtainable analogously to Japanese Preliminary Published Application 144,770/84) and boiling for 2 hours. Cooling down and customary working up gives 5-(4-pentylphenyl)-pyrazin-2-yl 4-propylbenzoate.

reactant | 4-propyl benzoic acid | 16.4 g | C(CC)C1=CC=C(C(=O)O)C=C1 | C10H12O2
reactant | SOCl2 | 24 g | O=S(Cl)Cl | Cl2OS
reactant | 5-(4-pentylphenyl)-2-pyrazinol | 24.2 g | C(CCCC)C1=CC=C(C=C1)C=1N=CC(=NC1)O | C15H18N2O
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 5-(4-pentylphenyl)-pyrazin-2-yl 4-propylbenzoate | C(CC)C1=CC=C(C(=O)OC2=NC=C(N=C2)C2=CC=C(C=C2)CCCCC)C=C1 | C25H28N2O2
